US06960598B2
Trifluoromethanesulfonic acid 2-fluoro-5-(7-trifluoromethyl[1,8]naphthyridin-4-yl)phenyl ester (30.0 mg, 0.068 mmol) was coupled to 6-quinolinylboronic acid (15.3 mg, 0.089 mmol) as described in Example 35 part c), affording 5-(4-fluoro-3-quinolin-6-ylphenyl)-2-trifluoromethyl[1,8]naphthyridine (17.4 mg, 61%). δH (400 MHz, CDCl3) 7.43-7.57 (3H, m), 7.64 (1H, d, J 4.3), 7.69-7.72 (1H, m), 7.85 (1H, d, J 8.6), 7.97 (1H, dt, J 8.6 and 1.8), 8.06 (1H, s), 8.22 (2H, d, J 8.2), 8.59 (1H, d, J 8.6), 8.98 (1H, dd, J 1.8 and 4.1), 9.30 (1H, d, J 4.3). m/z (ES+) 420 [MH]+.

reactant | Trifluoromethanesulfonic acid 2-fluoro-5-(7-trifluoromethyl[1,8]naphthyridin-4-yl)phenyl ester | 0.068 mmol, 30.0 mg | FC1=C(C=C(C=C1)C1=CC=NC2=NC(=CC=C12)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C16H7F7N2O3S
reactant | 6-quinolinylboronic acid | 0.089 mmol, 15.3 mg | N1=CC=CC2=CC(=CC=C12)B(O)O | C9H8BNO2
product | 5-(4-fluoro-3-quinolin-6-ylphenyl)-2-trifluoromethyl[1,8]naphthyridine | 17.4 mg, 61% | FC1=C(C=C(C=C1)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F)C=1C=C2C=CC=NC2=CC1 | C24H13F4N3
